US08378095B2
A solution of 2-(2,6-difluorophenyl)-5-(4-morpholinophenylamino)oxazole-4-carbonitrile (0.035 g, 0.09 mmol) in concentrated sulfuric acid (1.7 mL) was stirred at room temperature for 1.5 hours. The solution was neutralised by pouring into saturated sodium bicarbonate solution. The aqueous phase was extracted with EtOAc. The combined organic phase was dried over MgSO4 and the solvent removed in vacuo to afford 2-(2,6-difluorophenyl)-5-(4-morpholinophenylamino)oxazole-4-carboxamide (0.031 g, 0.077 mmol, 85%) as a yellow solid. 1H NMR (DMSO) δ 3.06 (4H, t), 3.73 (4H, t), 6.94 (2H, d), 7.28 (2H, br. s), 7.32 (4H, m), 7.62 (1H, m), 9.13 (1H, s). LCMS (2) Rt: 2.60 min; m/z (ES+) 401.

reactant | 2-(2,6-difluorophenyl)-5-(4-morpholinophenylamino)oxazole-4-carbonitrile | 0.09 mmol, 0.035 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C#N)NC1=CC=C(C=C1)N1CCOCC1 | C20H16F2N4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 1.7 mL | S(O)(O)(=O)=O | H2O4S
product | 2-(2,6-difluorophenyl)-5-(4-morpholinophenylamino)oxazole-4-carboxamide | 0.077 mmol, 0.031 g, 85% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)NC1=CC=C(C=C1)N1CCOCC1 | C20H18F2N4O3
